US07585881B2
3-(4-Cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-2-methyl-acrylic acid ethyl ester
(4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-methanol (6.8 g, 31.4 mmol) was mixed with MnO2 (40 g, 0.46 mol) in acetonitrile at r.t. for 2 hours and then heated at 80° C. for another 30 min. The reaction mixture was filtered through celite. The filtrate was mixed with 2-(diethoxy-phosphoryl)-propionic acid ethyl ester (12.35 g, 51.8 mmol) and DBU (7.17 g, 47 mmol) at 80 to 90° C. for 4 h. The reaction mixture was concentrated, dissolved in EA and washed with water and brine. The organic layer was dried, concentrated and triturated with hex. to give the title compound in 5.76 g (61%) yield. 1H-NMR: 8.78(d, 2H), 7.78 (d, 2H), 7.67 (s, 1H), 4.32 (q, 2H), 3.43 (m, 1H), 2.53 (s, 3H), 1.38 (t, 3H), 1.24 (m, 2H) and 0.73 (m, 2H).

reactant | (4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-methanol | 31.4 mmol, 6.8 g | C1(CC1)N1C(=NN=C1C1=CC=NC=C1)CO | C11H12N4O
reactant | 2-(diethoxy-phosphoryl)-propionic acid ethyl ester | 51.8 mmol, 12.35 g | C(C)OC(C(C)P(=O)(OCC)OCC)=O | C9H19O5P
reactant | DBU | 47 mmol, 7.17 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | MnO2 | 0.46 mol, 40 g | O=[Mn]=O
product | 3-(4-Cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-2-methyl-acrylic acid ethyl ester | C(C)OC(C(=CC1=NN=C(N1C1CC1)C1=CC=NC=C1)C)=O | C16H18N4O2
